US07094801B2
5-Iodo-2,4-dimethoxy-benzaldehyde
To a solution of 2,4-dimethoxy-benzaldehyde (20.0 g, 120.4 mmol) in methanol (550 mL) was added a solution of iodine monochloride (23.25 g, 144.9 mmol) in methanol (60 mL) dropwise over 20 min. The solution was allowed to stir at ambient temperature for 3 hours and then poured into a solution of hydrochloric acid (0.5 M, 600 mL). The resulting precipitate was collected by filtration, washed with water, and dried in vacuo. The crude product was further recrystallized from a mixture of tetrahydrofuran and heptane (1:1, v/v) to give the title compound as a white solid (30.62 g, 87.5%), m.p. 170–172° C. 1H NMR (CDCl3) δ 10.19 (s, 1H), 8.22 (s, 1H), 6.39 (s, 1H), 3.97 (s, 3H), 3.95 (s, 3H).

reactant | 2,4-dimethoxy-benzaldehyde | 120.4 mmol, 20.0 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | iodine monochloride | 144.9 mmol, 23.25 g | ICl | ClI
reactant | hydrochloric acid | 0.5 M, 600 mL | Cl | ClH
solvent | methanol | 550 mL | CO | CH4O
solvent | methanol | 60 mL | CO | CH4O
product | 5-Iodo-2,4-dimethoxy-benzaldehyde | 30.62 g, 87.5% | IC=1C(=CC(=C(C=O)C1)OC)OC | C9H9IO3
